US07759373B2
To a solution of benzo[b]furan-5-carboxylic acid (1.30 g) and of methyl isocyanoacetate (834 mg) in N,N-dimethylformamide (10 ml) were added diethyl cyanophosphate (1.33 ml) and triethylamine (3.6 ml) at room temperature, and the mixture was stirred overnight. After removing the solvent under reduced pressure, an aqueous citric acid solution and ethyl acetate were added to the residue, the organic layer was collected, washed successively with an aqueous citric acid solution, water, a saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) to obtain a crude product of methyl 5-(5-benzo[b]furyl)oxazol-4-carboxylate (1.14 g).

reactant | benzo[b]furan-5-carboxylic acid | 1.30 g | O1C2=C(C=C1)C=C(C=C2)C(=O)O | C9H6O3
reactant | methyl isocyanoacetate | 834 mg | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | diethyl cyanophosphate | 1.33 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 5-(5-benzo[b]furyl)oxazol-4-carboxylate | 1.14 g | O1C2=C(C=C1)C=C(C=C2)C2=C(N=CO2)C(=O)OC | C13H9NO4
